data/specific_train_final.csv
"CCC12C=C(C(C(C1O)(OO2)C)OO[O:20][N+:21](=O)[O-])C>>CCC12C=C(C(C(C1O)(OO2)C)OO[O:20])C.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:9][O:8][CH2:7][C:6]1[CH2:5][CH2:4][CH:3]=[C:2]([CH2:16][CH2:15][CH:14]2[CH:10]1[CH2:11][C:12]2([CH3:13])[CH3:17])[CH3:1].[O:18][O:19]>>[H:9][O:8][CH2:7][C:6]1([CH2:5][CH2:4][CH:3]=[C:2]([CH2:16][CH2:15][CH:14]2[CH:10]1[CH2:11][C:12]2([CH3:13])[CH3:17])[CH3:1])[O:18][O:19] 6-6,18; 18-6,18",Room Temperature,Termination,recombine
"CO[CH2:20].[O:10][O]>>CO[CH2:20][O:10][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC([CH2:10])O.[O:20][O]>>CCCC([CH2:10][O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](CC)CCCCCCCCC.[OH:10]>>[H:20][OH:10].CCCCCCCCC[CH:21]CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCC(=O)[O:20][O:21]N=O>>CCCCC(=O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][CH:22]C1C(O1)(C)C=CC(=O)C.[O:10][O]>>[H:20][O:10][O].CC(=O)C=CC1(C(O1)[CH:22]=[O:21])C 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC1=C(C(C([CH:20]=[C:21]1O)O)(C)O[O:10])C>>CC1=C(C2(C([CH:20]([C:21]1O)[O:10]O2)O)C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(CC[O:20][O:21]N=O)O>>CC(C)(CC[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C([O:20][O:21]N=O)Cl)Cl>>C(C([O:20])Cl)Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]CCCC.[Cl:10]>>[H:20][Cl:10].CCCC[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C(C)O[O:20])O[N+](=O)[O-].[N:10]=O>>CC(C(C)O[O:20][N:10]=O)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]C1=C(C(=C(C=C1)C)C)C.[OH:10]>>[H:20][OH:10].CC1=C(C(=C(C=C1)[O:21])C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C(C)(C)[O:20][O:21][O])O[N+](=O)[O-]>>CC(C)(C(C)(C)O[N+](=O)[O-])[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(CO)[O:20][O:21][O]>>CCCC(CO)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(=O)[O:20][O:21]N=O>>CCCC(=O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)C(C(C)(C)O)[O:20].[N+:10](=O)[O-]>>CC(=O)C(C(C)(C)O)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)(C)C[O:21][O:20][O].[N+](=O)[O-]>>CCC(C)(C)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][CH:2]([CH:3]([O:4])[O:5][CH3:6])[OH:7].[OH:8][O:9][O:10]>>[CH3:1][CH:2]([CH:3]([O:4])[O:5][CH3:6])[OH:7].[OH:8].[O:9][O:10] 8,9-8; 8,9-9",Room Temperature,Initiation,homolyze
"CC(C)(C)OCCO[O:20].[N+](=O)([O-])[O:10]>>CC(C)(C)OCCO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(COCO[O:20])O.O[O:10]>>C(COCO[O:20][O:10]O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21]O[O].C1=CC=C(C=C1)[C:11](=O)[O:10]>>[H:20][O:10].C1=CC=C(C=C1)[C:11]=O.[O:21]O[O] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(COO[O:20][N+:21](=O)[O-])O[N+](=O)[O-]>>CCC(COO[O:20])O[N+](=O)[O-].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(C)CO[O:20].[N:10]=O>>CC(C)C(C)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C(C=CC=C1)C[O:21][O:20][O].[N+](=O)[O-]>>CC1=C(C=CC=C1)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1][C:2]([CH:3]([CH:4]=[O:5])[O:6][OH:7])[O:8][OH:9].[CH2:10]=[O:11]>>[CH3:1][C:2](=[O:8])[CH:3]([CH:4]=[O:5])[O:6][OH:7].[CH2:10]=[O:11].[OH:9] 2-2,8; 8,9-2,8; 8,9-9",Room Temperature,Propagation,retroaddition
"C[C:20](CO[N+](=O)[O-])([CH:21](COO)O)[O:10]>>C[C:20](=[O:10])CO[N+](=O)[O-].C([CH:21]O)OO 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC1=CC2(C(C(C1O[O:20])(OO2)C)O)C.[N+](=O)([O-])[O:10]>>CC1=CC2(C(C(C1O[O:20][O:10][N+](=O)[O-])(OO2)C)O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:12][O:11][O:10][CH:9]([CH2:13][O:14][O:15])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8].[N:16]=[O:17]>>[H:12][O:11][O:10][CH:9]([CH2:13][O:14][O:15][N:16]=[O:17])[C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[OH:8] 16-16,15; 15-15,16",Room Temperature,Termination,recombine
"CCOC(C)(C)C[O:20].[N+:10](=O)[O-]>>CCOC(C)(C)C[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2]1([CH2:4][CH:5]2[CH:6]1[CH2:7][CH2:8][C:9]([CH:17]([CH2:22][CH2:23][C:24]2=[CH2:25])[O:18][N+:19](=[O:21])[O-:20])([CH3:10])[O:11][O:12][O:13][N+:14](=[O:16])[O-:15])[CH3:3]>>[CH3:1][C:2]1([CH2:4][CH:5]2[CH:6]1[CH2:7][CH2:8][C:9]([CH:17]([CH2:22][CH2:23][C:24]2=[CH2:25])[O:18][N+:19](=[O:21])[O-:20])([CH3:10])[O:11][O:12][O:13])[CH3:3].[N+:14](=[O:16])[O-:15] 13,14-14; 13,14-13",Room Temperature,Initiation,homolyze
